US05719146
5-Methyl-2-nitroimino-hexahydro-1,3,5-triazine (3.0 g) was dissolved in dimethylformamide/DMF (20 ml), followed by portionwise addition of sodium hydride (950 mg: oil free) thereto at a temperature in the range of from 0° to 5° C. After one hour stirring at 0° to 5° C. a solution of 2-chloro-5-chloromethyl-pyrimidine (3.1 g) in 20 ml of DMF was added dropwise to the solution, the temperature was kept constant, followed by a five hour stirring. The reaction mixture thus obtained was poured into iced water, subjected to extraction with methylene chloride a few times and then the extract was dried with anhydrous magnesium sulfate which was removed from the solvent. The thus obtained residue was purified by silica gel column chromatography (eluant: ethanol: chloroform=1: 20), to obtain the desired 1-(2-chloro-5-pyridylmethyl)-5-methyl-2-nitroimino-hexahydro-1,3,5-triazine (3.7 g) having a melting point in the range of from 160° to 161° C.

reactant | 5-Methyl-2-nitroimino-hexahydro-1,3,5-triazine | 3.0 g | CN1CNC(NC1)=N[N+](=O)[O-] | C4H9N5O2
reactant | sodium hydride | 950 mg | [H-].[Na+]
reactant | 2-chloro-5-chloromethyl-pyrimidine | 3.1 g | ClC1=NC=C(C=N1)CCl | C5H4Cl2N2
reactant | water | O | H2O
reactant | dimethylformamide DMF | 20 ml | CN(C=O)C.CN(C)C=O | 2C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-(2-chloro-5-pyridylmethyl)-5-methyl-2-nitroimino-hexahydro-1,3,5-triazine | 3.7 g | ClC1=NC=C(C=C1)CN1C(NCN(C1)C)=N[N+](=O)[O-] | C10H13ClN6O2
